US07217736B2
2-Methylbenzyl 5-amino-4-oxopentanoate hydrochloride [compound 29]
From 2-methylbenzyl alcohol (5.0 g; 41 mmol) and 5-amino-4-oxopentanoic acid hydrochloride (1.0 g; 6.0 mmol). The reaction was complete after 4 days at 100° C. The yield was 0.72 g (44%). Mp 107–109° C.

reactant | 2-methylbenzyl alcohol | 41 mmol, 5.0 g | CC1=C(CO)C=CC=C1 | C8H10O
reactant | 5-amino-4-oxopentanoic acid hydrochloride | 6.0 mmol, 1.0 g | Cl.NCC(CCC(=O)O)=O
product | 2-Methylbenzyl 5-amino-4-oxopentanoate hydrochloride | Cl.NCC(CCC(=O)OCC1=C(C=CC=C1)C)=O | InChI=1S/C13H17NO3.ClH/c1-10-4-2-3-5-11(10)9-17-13(16)7-6-12(15)8-14;/h2-5H,6-9,14H2,1H3;1H
